US06586434B2
Preparation of (4E)-2-butyl-2-(((4-chlorophenyl)sulfonyl)methyl)hex-4-enal
To a stirred solution of 2-(((4-chlorophenyl)-sulfonyl)methyl)hexanal (3.38 g, 11.73 mmol) in 30 ml of toluene in a RBF fitted with a Dean-Stark trap is added 2-hydroxy-3-butene (5 mL, 57.73 mmol), followed by p-toluenesulfonic acid (0.13 g) at room temperature under nitrogen. The mixture is heated to reflux for 20 hours. After cooling to room temperature, the toluene solution is diluted with 10 mL of ethyl acetate and washed with 10 mL of saturated NaHCO3 solution. The aqueous phase is extracted with ethyl acetate. The combined organic extract is washed with water (2×10 mL), brine (1×10 mL), and dried with MgSO4. After removing solvents, the product is obtained as a brownish oil in 98% yield.

reactant | 2-(((4-chlorophenyl)-sulfonyl)methyl)hexanal | 11.73 mmol, 3.38 g | ClC1=CC=C(C=C1)S(=O)(=O)CC(C=O)CCCC | C13H17ClO3S
reactant | 2-hydroxy-3-butene | 57.73 mmol, 5 mL | OC(C)C=C | C4H8O
reactant | p-toluenesulfonic acid | 0.13 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (4E)-2-butyl-2-(((4-chlorophenyl)sulfonyl)methyl)hex-4-enal | 98% yield | C(CCC)C(C=O)(C\C=C\C)CS(=O)(=O)C1=CC=C(C=C1)Cl | C17H23ClO3S
